US04013692
To a mixture of 50% sodium hydroxide solution (35 ml.) and ethanol (100 ml.) is added 2-bromo-7-cyanomethyl-3-phenylbenzofuran (10 g., 0.032 mole). The mixture is heated to reflux temperature and maintained at reflux for about sixteen hours, then concentrated in vacuo. The residue is diluted with water, then extracted (washed) with diethyl ether. The aqueous layer is acidified with hydrochloric acid, yielding a precipitate which is collected by filtration and recrystallized twice from benzene-hexane mixtures to give 2-bromo-3-phenyl-7-benzofuranacetic acid, m.p. 162°-163.5° C.

reactant | sodium hydroxide | 35 ml | [OH-].[Na+]
reactant | 2-bromo-7-cyanomethyl-3-phenylbenzofuran | 0.032 mole, 10 g | BrC=1OC2=C(C1C1=CC=CC=C1)C=CC=C2CC#N | C16H10BrNO
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-bromo-3-phenyl-7-benzofuranacetic acid | BrC1(OC=2C(C=CC2)=CC1C1=CC=CC=C1)CC(=O)O | C16H13BrO3
